US08012956B2
tert-Butyl 4-(5-(ethoxycarbonyl)pyridin-2-yl)piperazine-1-carboxylate (3.65 g, 10.9 mmol) was taken into methanol (40 mL) followed by addition of 1M aqueous sodium hydroxide (15 mL) and THF (15 mL), and the mixture was heated at 50° C. for one hour. An additional portion of 1 M aqueous sodium hydroxide (10 mL) was then added and heating was continued an additional two hours. The mixture was then cooled to room temperature and concentrated to remove organic solvents. The aqueous residue was partitioned with ethyl ether and the organic layer was discarded. The aqueous phase has carefully brought to pH 5-6 by addition of 1M aqueous hydrochloric acid to give a thick white suspension. The solid was collected by filtration and dried to give 6-(4-(tert-butoxycarbonyl)piperazin-1-yl)nicotinic acid (2.0 g). 1H NMR (400 MHz, DMSO-d6): 12.57 (br s, 1H), 8.64 (s, 1H), 7.95 (d, 1H), 6.86 (d, 1H), 3.67-3.62 (m, 4H), 3.45-3.40 (m, 4H), 1.43 (s, 9H).

reactant | tert-Butyl 4-(5-(ethoxycarbonyl)pyridin-2-yl)piperazine-1-carboxylate | 10.9 mmol, 3.65 g | C(C)OC(=O)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H25N3O4
reactant | methanol | 40 mL | CO | CH4O
reactant | sodium hydroxide | 1M, 15 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 6-(4-(tert-butoxycarbonyl)piperazin-1-yl)nicotinic acid | 2.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H21N3O4
